US09226922B2
Step 4: (3-(benzyloxy)-6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate
A solution of (3-(benzyloxy)-6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methanol (2.443 g, 4.59 mmol) and DIPEA (3.0 ml, 17.18 mmol) in DCM (25 ml) was charged with AcCl (0.70 ml, 9.84 mmol). Stirred at RT for 45 min. Diluted with DCM, washed organics with 2N HCl, dried over MgSO4, filtered, concentrated in vacuo and obtained (3-(benzyloxy)-6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl. MS: [M+H]+ m/z 574.

reactant | (3-(benzyloxy)-6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methanol | 4.59 mmol, 2.443 g | C(C1=CC=CC=C1)OC1=NN(C2=C1C(=NC(=C2)Cl)CO)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C33H26ClN3O2
reactant | DIPEA | 17.18 mmol, 3.0 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | AcCl | 9.84 mmol, 0.70 ml | C(=O)(C)Cl | C2H3ClO
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | (3-(benzyloxy)-6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methyl acetate | C(C)(=O)OCC1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OCC2=CC=CC=C2)Cl | C35H28ClN3O3
